US07091220B2
4-Methyl-3-(piperidin-1-yl-o-tolylmethyl)-1H-indole
The preparation was carried out in accordance with general synthesis instructions 4 from 4-methyl-1H-indole and 1-(2-methyl-benzylidene)-piperidinium chloride, which had been prepared in accordance with example 30.

reactant | 4-methyl-1H-indole | CC1=C2C=CNC2=CC=C1 | C9H9N
reactant | 1-(2-methyl-benzylidene)-piperidinium chloride | [Cl-].CC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 4-Methyl-3-(piperidin-1-yl-o-tolylmethyl)-1H-indole | CC1=C2C(=CNC2=CC=C1)C(C1=C(C=CC=C1)C)N1CCCCC1 | C22H26N2
